US04886809
Thus obtained 6-(4-benzylimino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril was dissolved in 30 ml of methanol, then 1 g of sodium borohydride was added thereto gradually, and the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into ice-diluted hydrochloric acid mixture, then the whole mixture was made alkaline by adding sodium carbonate, then extracted with chloroform, the extract was dried with anhydrous sodium carbonate, then the solvent was removed by evaporation. The residue thus obtained was purified by means of a thin-layer chromatography (developing agent: chloroform:methanol=10:1) to yield 0.2 g of 6-(4-benzylamino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril.1/2-hydrate.

reactant | 6-(4-benzylimino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril | C(C1=CC=CC=C1)N=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C22H23N3O2
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-(4-benzylamino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril | 0.2 g | C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C22H25N3O2
